US09328192B2
To a solution of 4-nitro-benzoic acid 1-hexyl-11-(4-nitro-phenoxy carbonyl)-undec-3-enyl ester (300 g) in ethyl acetate (1.5 L) in a pressure vessel was added Raney Nickel (120 g) added, and the mixture stirred under an atmosphere of Hydrogen (8-10 Kg) for 8 hours at a temperature of 60-65° C. The catalyst was removed by filtration. The solvent was distilled off completely under reduced pressure at 65-70° C. and removed traces for 1 hour at 85-90° C. to get pure 4-aminobenzoic acid 11-(4-amino-phenoxycarbonyl)-1-hexyl-undec-3-enyl ester product as deep yellow thick syrup (190 g). The resulting compound was characterized by 1H NMR (CDCl3) δ 0.88 (t, 3H, CH3), 1.2-1.65 (m, 24H, 12×CH2), 2.12 (t, 2H, COCH2), 3.5 (m, 1H, CH) 5.12 (m, 1H, CH), 5.45 (m, 1H, CH), 6.55 (m, 4H, Ar), 6.85 (m, 2H, Ar), 7.75 (m, 2H, Ar).

reactant | 4-nitro-benzoic acid 1-hexyl-11-(4-nitro-phenoxy carbonyl)-undec-3-enyl ester | 300 g | C(CCCCC)C(CC=CCCCCCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C31H40N2O8
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
catalyst | Raney Nickel | 120 g | [Ni] | Ni
product | 4-aminobenzoic acid 11-(4-amino-phenoxycarbonyl)-1-hexyl-undec-3-enyl ester | NC1=CC=C(OC(=O)CCCCCCCC=CCC(CCCCCC)OC(C2=CC=C(C=C2)N)=O)C=C1 | C31H44N2O4
